US08039460B2
tert-Butyl [(6S,9R)-6-(2,3-difluorophenyl)-3-(1-hydroxycyclopropyl)-6,7,8,9-tetrahydro-5H-imidazo[1,2-a]azepin-9-yl]carbamate
Ethylmagnesium bromide (3 M in ether; 0.17 mL, 0.51 mmol) was added dropwise over 15 min to a solution of titanium(IV) isopropoxide (0.08 mL, 0.26 mmol) and methyl (6S,9R)-9-[(tert-butoxycarbonyl)amino]-6-(2,3-difluorophenyl)-6,7,8,9-tetrahydro-5H-imidazo[1,2-a]azepine-3-carboxylate (54 mg, 0.13 mmol) in ether (0.9 mL) at 0° C. After 1.5 h, additional titanium(IV) isopropoxide (0.08 mL, 0.26 mmol) and ethylmagnesium bromide (3 M in ether; 0.17 mL, 0.51 mmol) were added. After 1.5 h, the mixture was quenched with saturated aqueous sodium bicarbonate and extracted with ethyl acetate (3×). The combined organic layers were washed with saturated brine, dried with magnesium sulfate, filtered, and concentrated. Purification by reverse phase HPLC (C-18, 80% water/acetonitrile→40% water/acetonitrile with 0.1% trifluoroacetic acid) gave the title compound (23 mg). MS 420.2 (M+1).

reactant | Ethylmagnesium bromide | 0.51 mmol, 3 M, 0.17 mL | C(C)[Mg]Br
reactant | methyl (6S,9R)-9-[(tert-butoxycarbonyl)amino]-6-(2,3-difluorophenyl)-6,7,8,9-tetrahydro-5H-imidazo[1,2-a]azepine-3-carboxylate | 0.13 mmol, 54 mg | C(C)(C)(C)OC(=O)N[C@H]1C=2N(C[C@@H](CC1)C1=C(C(=CC=C1)F)F)C(=CN2)C(=O)OC | C21H25F2N3O4
reactant | ethylmagnesium bromide | 0.51 mmol, 3 M, 0.17 mL | C(C)[Mg]Br
solvent | ether | 0.9 mL | CCOCC | C4H10O
catalyst | titanium(IV) isopropoxide | 0.26 mmol, 0.08 mL | CC([O-])C.[Ti+4].CC([O-])C.CC([O-])C.CC([O-])C
catalyst | titanium(IV) isopropoxide | 0.26 mmol, 0.08 mL | CC([O-])C.[Ti+4].CC([O-])C.CC([O-])C.CC([O-])C
product | tert-Butyl [(6S,9R)-6-(2,3-difluorophenyl)-3-(1-hydroxycyclopropyl)-6,7,8,9-tetrahydro-5H-imidazo[1,2-a]azepin-9-yl]carbamate | 23 mg | FC1=C(C=CC=C1F)[C@@H]1CC[C@H](C=2N(C1)C(=CN2)C2(CC2)O)NC(OC(C)(C)C)=O | C22H27F2N3O3
